US05134142
A mixture of 4,5-dihydro-1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazol-3-amine (1 g) and manganese (IV) oxide (1.16 g) in dichloromethane (100 ml) was stirred at ambient temperature for 2 hours. The insoluble was filtered and the filtrate was concentrated to dryness. The residue (1 g) was purified by column chromatography on silica gel (16 g) eluting with a mixture of chloroform and ethyl acetate (5:1 to give a pale brown powder of 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazol-3-amine (0.64 g).

reactant | 4,5-dihydro-1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazol-3-amine | 1 g | FC1=CC=C(C=C1)N1N=C(CC1C1=CC=C(C=C1)SC)N | C16H16FN3S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | manganese (IV) oxide | 1.16 g | [O-2].[Mn+4].[O-2]
product | 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazol-3-amine | 0.64 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)N | C16H14FN3S
